US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(2-hydrazinylpyrimidin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 433, Step A, starting from 2-[(S)-1-Phenylethylamino]-4-[5-(2-chloropyrimidin-4-yl)benzimidazol-1-yl]pyrimidine and hydrazine. Mass spectrum (ESI) 424.3 (M+).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-(2-chloropyrimidin-4-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=NC(=NC=C2)Cl | C23H18ClN7
reactant | hydrazine | NN | H4N2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(2-hydrazinylpyrimidin-4-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=NC(=NC=C2)NN | C23H21N9
